US04107310
34.5 g of isobutyl chloride were added over 15 minutes to a mixture of 46.7 g of o-trifluoromethylaniline, 32.6 g of triethylamine and 470 ml of acetone and the mixture was held at 15° C for 30 minutes and then returned to room temperature. The mixture stood for 12 hours and was filtered and the filtrate was evaporated to dryness. The residue was taken up in 700 ml of ethyl acetate and the solution was washed with 10% potassium carbonate solution and then with water until the wash water pH was 6, then with N hydrochloric acid and finally with water until the wash water pH was 6. The solution was dried over magnesium sulfate, was treated with activated carbon and was evaporated to obtain 68 g of raw product which was washed with hexane to obtain 60 g of N-(2-trifluoromethylphenyl)-2-methyl-propanamide melting at 114° C which was used as is for the next step.

reactant | isobutyl chloride | 34.5 g | C(C(C)C)Cl | C4H9Cl
reactant | o-trifluoromethylaniline | 46.7 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | triethylamine | 32.6 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 470 ml | CC(=O)C | C3H6O
product | N-(2-trifluoromethylphenyl)-2-methyl-propanamide | 60 g | FC(C1=C(C=CC=C1)NC(C(C)C)=O)(F)F | C11H12F3NO
